US07737166B2
7-Bromo-2-tert-butyl-6-(2-furyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-10)
Bis(triphenylphosphine)palladium(II) chloride (0.5 mg, 0.72 μmol) was added to a benzene (1.0 ml) solution of 7-bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile (I-8) (30 mg, 71.6 μmol), (2-tri-n-butylstannyl)furan (23.7 μl, 75.2 μmol), followed by refluxing overnight. After cooling, water (30 ml) was added, the product was extracted with ethyl acetate (30 ml×2), the organic layer was washed with saturated brine (30 ml), then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (h-hexane:ethyl acetate=8:1) to obtain the entitled compound (19 mg) as a colorless solid.

reactant | benzene | 1.0 ml | C1=CC=CC=C1 | C6H6
reactant | 7-bromo-2-tert-butyl-6-iodo-5-methyl-1,3-benzoxazole-4-carbonitrile | 71.6 μmol, 30 mg | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)I | C13H12BrIN2O
reactant | water | 30 ml | O | H2O
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.72 μmol, 0.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-Bromo-2-tert-butyl-6-(2-furyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 19 mg | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C=2OC=CC2 | C17H15BrN2O2
